US07002010B2
To a solution of 36.6 g (0.34 mol) of crude 2-nitro-propan-1-ol [prepared according to Example 1a]in 200 ml of toluene in a pressure vessel is added 2 g of sodium bisulfate [NaHSO4]. Through the closed autoclave is added at room temperature 48 g (0.85 mol) of isobutene. The reaction mixture is maintained at 60° C. for 8 hours. The reaction mixture is cooled to room temperature, diluted with toluene and filtered to give a crude solution of 1-tert-butoxy-2-nitro-propane in toluene.

reactant | 2-nitro-propan-1-ol | 0.34 mol, 36.6 g | [N+](=O)([O-])C(CO)C | C3H7NO3
reactant | sodium bisulfate | 2 g | S([O-])(O)(=O)=O.[Na+]
reactant | isobutene | 0.85 mol, 48 g | C=C(C)C | C4H8
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-tert-butoxy-2-nitro-propane | C(C)(C)(C)OCC(C)[N+](=O)[O-] | C7H15NO3
